US07786104B2
5.1 3-Methoxy-5-nitro-2-(pyrrolidin-1-yl)pyridine
A solution of 3 g (15.91 mmol) of 2-chloro-3-methoxy-5-nitropyridine and 2 ml (23.86 mmol) of pyrrolidine in 30 ml of dimethylformamide is heated at 100° C. for 4 hours. The reaction mixture is subsequently concentrated under reduced pressure and then taken up in 100 ml of water and extracted three times with 100 ml of ethyl acetate. The organic phases are combined, then washed twice with 50 ml of water then once with 50 ml of a saturated sodium chloride solution, dried over sodium sulfate and then concentrated under reduced pressure. 3.47 g of the expected compound are thus isolated in the form of an orangey powder.

reactant | 2-chloro-3-methoxy-5-nitropyridine | 15.91 mmol, 3 g | ClC1=NC=C(C=C1OC)[N+](=O)[O-] | C6H5ClN2O3
reactant | pyrrolidine | 23.86 mmol, 2 ml | N1CCCC1 | C4H9N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-Methoxy-5-nitro-2-(pyrrolidin-1-yl)pyridine | 3.47 g | COC=1C(=NC=C(C1)[N+](=O)[O-])N1CCCC1 | C10H13N3O3
